US04360530
A solution of 70.2 g of 5-[p-(dimethylamino)-phenyl]-2,2-dimethyl-4-phenyl-3-oxazoline in 300 ml of glacial acetic acid was added while stirring to a mixture, cooled to 0° C., of 30 ml of acetic anhydride and 90 m. of 30% hydrogen peroxide. The mixture was then stirred at room temperature for an additional 2.5 hours, treated while cooling with sodium hydroxide (342 g of sodium hydroxide in 2 liters of water) and sufficient sodium carbonate was added until carbon dioxide no longer evolved. Then, the mixture was evaporated almost to dryness on a rotary evaporator in a water-jet vacuum at 60° C., and the residue was extracted with 2.5 liters of dichloromethane. The dichloromethane solution was dried over sodium sulfate, filtered and evaporated in a water-jet vacuum. The residue was chromatographed on silica gel, the elution being carried out firstly with acetone and subsequently with methanol. The fractions containing the product were combined and largely freed from solvent in a water-jet vacuum. There were thus obtained 52 g of a hygroscopic oil from which a part of the water was removed at room temperature and 0.1 Torr (4 hours). Crystallization was then carried out twice from acetone, the solution being decolorized with active carbon. The crystalline product was dried for 16 hours at 70° C. and 0.1 Torr, and there were obtained 40.8 g of 5-[p-(dimethylamino)phenyl]-2,2-dimethyl-4-phenyl-3-oxazoline N-oxide in the form of hygroscopic white crystals which decomposed during the melting from 130° C.

reactant | 5-[p-(dimethylamino)-phenyl]-2,2-dimethyl-4-phenyl-3-oxazoline | 70.2 g | CN(C1=CC=C(C=C1)C1C(=NC(O1)(C)C)C1=CC=CC=C1)C | C19H22N2O
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | 2 liters, 342 g | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 5-[p-(dimethylamino)phenyl]-2,2-dimethyl-4-phenyl-3-oxazoline N-oxide | 40.8 g | CN(C1=CC=C(C=C1)C1C(=[N+](C(O1)(C)C)[O-])C1=CC=CC=C1)C | C19H22N2O2
